US07414061B2
4-[2-Benzyloxymethyl-4-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzonitrile
As described for Example 63, 4-(2-benzyloxymethyl-1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole (100 mg, 0.29 mmol) using 4-fluorobenzonitrile instead of 4-fluoroacetophenone was converted to the title compound (106 mg, 82%) which was obtained as a white foam. MS: m/e=447.4 [M+H]+.

reactant | 4-(2-benzyloxymethyl-1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole | 0.29 mmol, 100 mg | C(C1=CC=CC=C1)OCC=1NC=C(N1)C=1C(=NOC1C)C1=CC=CC=C1 | C21H19N3O2
reactant | 4-fluorobenzonitrile | FC1=CC=C(C#N)C=C1 | C7H4FN
product | 4-[2-Benzyloxymethyl-4-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzonitrile | 106 mg, 82% | C(C1=CC=CC=C1)OCC=1N(C=C(N1)C=1C(=NOC1C)C1=CC=CC=C1)C1=CC=C(C#N)C=C1 | C28H22N4O2
